US05374656
The procedure is as in Example 1, but using 11.6 g of 2-[3-(3-methylphenyl)ureido]acetic acid, 15 g of ethyl (RS)-3-anilino-3-phenylpropionate and 4 cm3 of thionyl chloride as starting materials. The product obtained is purified by chromatography on 250 g of silica (0.04-0.063 mm) contained in a column 5 cm in diameter [eluent: methanol/dichloromethane (2/98 by volume)], using an excess pressure of 40 kPa of nitrogen and collecting 75-cm3 fractions. Fractions 19 to 21 are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. and the residue obtained is recrystallized from ethyl acetate. 4.5 g of ethyl (RS)-3-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}-3-phenylpropionate melting at 146° C. are then obtained.

reactant | 2-[3-(3-methylphenyl)ureido]acetic acid | 11.6 g | CC=1C=C(C=CC1)NC(NCC(=O)O)=O | C10H12N2O3
reactant | ethyl (RS)-3-anilino-3-phenylpropionate | 15 g | N(C1=CC=CC=C1)C(CC(=O)OCC)C1=CC=CC=C1 | C17H19NO2
reactant | thionyl chloride | 4 cm3 | S(=O)(Cl)Cl | Cl2OS
product | ethyl (RS)-3-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}-3-phenylpropionate | 4.5 g | CC=1C=C(C=CC1)NC(NCC(=O)N(C1=CC=CC=C1)C(CC(=O)OCC)C1=CC=CC=C1)=O | C27H29N3O4
